US04839360
To a solution of 1.0 g of 1-phenyl-6-(3,4-dichlorophenyl)-2-piperidone in 0.5 ml of acetic anhydride was added 1 ml of fuming nitric acid at 0° to 10° C., and the mixture was stirred for 3 hours. The mixture was made alkaline under cooling with an aqueous 10% sodium hydroxide solution and extracted with toluene. After washing with water and drying, the solvent was evaporated. The residue was purified by silica gel column chromatography (solvent; acetone:n-hexane=1:1) to give 0.35 g of 1-(4-nitrophenyl)-6-(3,4-dichlorophenyl)-2-piperidone as colorless foam.

reactant | 1-phenyl-6-(3,4-dichlorophenyl)-2-piperidone | 1.0 g | C1(=CC=CC=C1)N1C(CCCC1C1=CC(=C(C=C1)Cl)Cl)=O | C17H15Cl2NO
reactant | nitric acid | 1 ml | [N+](=O)(O)[O-] | HNO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic anhydride | 0.5 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1-(4-nitrophenyl)-6-(3,4-dichlorophenyl)-2-piperidone | 0.35 g | [N+](=O)([O-])C1=CC=C(C=C1)N1C(CCCC1C1=CC(=C(C=C1)Cl)Cl)=O | C17H14Cl2N2O3
